US04056536
Ethanethiol (0.62 g., 10 mmoles), dissolved in dimethyl formamide (10 ml.) is added to a suspension of sodium hydride (0.5 g. of 50% oil dispersion) in dry dimethyl formamide (5 ml.). The mixture is stirred until all hydrogen has evolved and 9-methoxy-11H-pyrrolo[2,1-b][3]benzazepin-11-one (2.26 g., 10 mmoles) is added. The solution is refluxed for a period of 3 hours. The cooled reaction mixture is acidified with 0.2N HCl and extracted with chloroform. The organic layer is washed with water, dried over sodium sulfate and concentrated to yield 9-hydroxy-11-H-pyrrolo[2,1-b] [3]benzazepin-11-one.

reactant | Ethanethiol | 10 mmoles, 0.62 g | C(C)S | C2H6S
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 9-methoxy-11H-pyrrolo[2,1-b][3]benzazepin-11-one | 10 mmoles, 2.26 g | COC1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C14H11NO2
reactant | HCl | 0.2N | Cl | ClH
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
product | 9-hydroxy-11-H-pyrrolo[2,1-b] [3]benzazepin-11-one | OC1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C13H9NO2
